US07691902B2
A suspension of (4′-cyano-biphenyl-3-yl)-carbamic acid tert-butyl ester (7.6 g, 26 mmol) and Raney Ni (1 g) in EtOH (500 mL) and NH3.H2O (10 mL) was hydrogenated under 50 psi of H2 at 50° C. for 6 h. The catalyst was filtered off and the filtrate was concentrated to dryness to give (4′-aminomethyl-biphenyl-3-yl)-carbamic acid tert-butyl ester, which was used directly in next step.

reactant | (4′-cyano-biphenyl-3-yl)-carbamic acid tert-butyl ester | 26 mmol, 7.6 g | C(C)(C)(C)OC(NC=1C=C(C=CC1)C1=CC=C(C=C1)C#N)=O | C18H18N2O2
solvent | EtOH | 500 mL | CCO | C2H6O
solvent | NH3.H2O | 10 mL | N.O
catalyst | Ni | 1 g | [Ni] | Ni
product | (4′-aminomethyl-biphenyl-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=C(C=CC1)C1=CC=C(C=C1)CN)=O | C18H22N2O2
